US05565482
Preparation of 2-(trifluoroacetyl)-3-coumaranone
Ethyl trifluoroacetate (1.90 g, 14 mmol) was dissolved in ether (15 mL) and treated with sodium methoxide (25%) (3.67 g, 17 mmol). To the stirred solution was added 3-coumaranone (1.50 g, 11 mmol). The reaction was stirred at room temperature overnight (19 hours) and treated with 3N HCl (8 mL). The organic layer was collected, washed with brine, dried over MgSO4, and concentrated in vacuo to give a reddish brown solid (2.19 g, 85%): mp 108°-111° C.; 1H NMR (CDCl3) 300 MHz 7.84 (d, J=8.1 Hz, 1H) 7.66 (m, 1H) 7.52 (d, J=8.7 Hz, 1H) 7.37 (m, 1H). Mass spectrum: M+H=231.

reactant | Ethyl trifluoroacetate | 14 mmol, 1.90 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | 17 mmol, 3.67 g | C[O-].[Na+]
reactant | 3-coumaranone | 11 mmol, 1.50 g | O1CC(C2=CC=CC=C12)=O | C8H6O2
reactant | HCl | 3N, 8 mL | Cl | ClH
solvent | ether | 15 mL | CCOCC | C4H10O
product | 2-(trifluoroacetyl)-3-coumaranone | 2.19 g, 85% | FC(C(=O)C1OC2=CC=CC=C2C1=O)(F)F | C10H5F3O3
